US07858632B2
To a flask charged with 4-amino-2-isopropyl-5-methyl-benzene-1,3-diol (250 mg, 1.4 mmol) (Treibs and Albrecht, “The dihydroxycymenes. IV. Isocymorcin (3,5-dihydroxycymene) from 3,5-menthanedione by dehydrogenation and total synthesis,” Journal fuer Praktische Chemie (1961), 13, 291-305), purged with argon, and cooled to 0° C., was sequentially added triethylorthoformate (0.53 mL, 4.2 mmol), MeOH (2.5 mL), and a 10% v/v solution of H2SO4 in MeOH (25 μL). The reaction was allowed to warm to room temperature slowly, stirred overnight, quenched with saturated NaHCO3, and concentrated. The residue was partitioned between water and methylene chloride. The combined organic phases were dried with Na2SO4 and concentrated. Purification via flash chromatography afforded 175 mg of 7-isopropyl-2,4-dimethyl-benzooxazol-6-ol.

reactant | 4-amino-2-isopropyl-5-methyl-benzene-1,3-diol | 1.4 mmol, 250 mg | NC1=C(C(=C(C=C1C)O)C(C)C)O | C10H15NO2
reactant | 3,5-dihydroxycymene | OC=1C=C(C=C(C1C)O)C(C)C | C10H14O2
reactant | 3,5-menthanedione | C1(CC(C(C(C1)=O)C(C)C)=O)C | C10H16O2
reactant | triethylorthoformate | 4.2 mmol, 0.53 mL | C(C)OC(OCC)OCC | C7H16O3
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | MeOH | 25 μL | CO | CH4O
catalyst | titanium chloride | [Cl-].[Ti+4].[Cl-].[Cl-].[Cl-]
solvent | MeOH | 2.5 mL | CO | CH4O
product | 7-isopropyl-2,4-dimethyl-benzooxazol-6-ol | 175 mg | C(C)(C)C1=C(C=C(C=2N=C(OC21)C)C)O | C12H15NO2
